US04309357
Proceeding as in Example 1, into a 100 cc flask were placed to react: 4.1 g of potassium 3-butenoate (3.3 10-2 mols), 6 g of styryl bromide, a cis-trans mixture, (3.3 10-2 mols), 2.9 g of Ni(PPh3)3 (3.3 10-2 mols) and 40 cc of ethyl alcohol. The mass was heated up to 105° C. under nitrogen atmosphere, for about 2 hours. Operating as in Example 1, there were obtained 2.2 g of 6-phenyl-3,5-hexadienoic acid, a mixture of isomers containing double cis and trans bonds.

reactant | potassium 3-butenoate | 10-2 mols, 4.1 g | C(CC=C)(=O)[O-].[K+]
reactant | styryl bromide | 6 g | C(=CC1=CC=CC=C1)Br | C8H7Br
solvent | ethyl alcohol | 40 cc | C(C)O | C2H6O
product | 6-phenyl-3,5-hexadienoic acid | 2.2 g | C1(=CC=CC=C1)C=CC=CCC(=O)O | C12H12O2
